US06759420B1
a) 4-[(2-(S)-Benzyloxycarbonylamino-2-cyclohexyl-acetylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester
To (S)-benzyloxycarbonylamino-cyclohexyl-acetic acid (5.4 g, 18.66 mmol) and 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (4.0 g, 18.66 mmol) in dimethylformamide were added HATU (7.09 g, 18.66 mmol) and collidine (2.46 ml, 18.66 mmol) at 0° C. The mixture was stirred for 1 hour and then allowed to warm to room temperature. The mixture was evaporated and separated between ethyl acetate and sodium bicarbonate solution. The organic layer was washed with aqueous solution (pH 4), dried and evaporated. The resulting residue was taken up in ethyl acetate and washed with potassium hydrogen sulfate solution, dried and evaporated to give the desired product. Yield: 8.29 g (91%), MS m/z: 488.3 (M+H)+.

reactant | (S)-benzyloxycarbonylamino-cyclohexyl-acetic acid | 18.66 mmol, 5.4 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)C1CCCCC1 | C16H21NO4
reactant | 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 18.66 mmol, 4.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | HATU | 18.66 mmol, 7.09 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | collidine | 18.66 mmol, 2.46 ml | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[(2-(S)-Benzyloxycarbonylamino-2-cyclohexyl-acetylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC([C@H](C1CCCCC1)NC(=O)OCC1=CC=CC=C1)=O | C27H41N3O5
